US05506351
2'-O-Pentylguanosine
2,6-diamino-9-(2-O-pentyl-β-D-ribofuranosyl)purine (1.9 g) in 0.1M sodium phosphate buffer (50 ml, pH 6.0) and DMSO (25 ml) was treated with adenosine deaminase (added in two aliquots--first aliquot 50 mg, second aliquot 80 mg) at 35° C. as per the procedure of Example 3 to yield 1.4 g of product. 1H NMR (DMSO-d6) δ 0.8 (t, 3, CH3), 1.16 (m, 4, 2×CH2), 1.4 (m, 2, CH2), 3.38, 3.6 (m, 4, OCH2, H-5'), 3.93 (s, 1, H-4'), 4.28 (m, 2, H-2', H-3'), 5.17 (br, 2, 5', 3'-OH), 5.8 (d, 1, H-1'), 6.53 (br s, 2, NH2), 8.0 (s, 1, H-8) and 10.68 (br, 1, NH).

reactant | 2,6-diamino-9-(2-O-pentyl-β-D-ribofuranosyl)purine | 1.9 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OCCCCC)[C@H](O)[C@H](O1)CO)N | C15H24N6O4
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
solvent | sodium phosphate | 0.1M, 50 ml, pH 6.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 2'-O-Pentylguanosine | 1.4 g | C(CCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(=O)NC(N)=NC12 | C15H23N5O5
